US09376443B2
2-Hydroxymethyl-6-(1-methoxy-1-methylethyl)pyridine
A solution of 2-tert-butyldimethylsilyloxymethyl-6-(1-methoxy-1-methylethyl)pyridine (1.20 g, 4.08 mmol) in AcOH (45 mL), THF (15 mL) and H2O (15 mL) was stirred for 48 h at room temperature. The solvent was removed in vacuo, the residue was partitioned between DCM and sat aq NaHCO3, the organic portion was separated, dried (MgSO4), filtered and evaporated to give the title compound (740 mg, 100%) as a colourless oil; NMR δH (400 MHz, CDCl3) 7.70-7.66 (1H, m), 7.48-7.45 (1H, m), 7.07-7.04 (1H, m), 4.74 (2H, d, J 5.0 Hz), 4.14 (1H, t, J 5.0 Hz), 3.18 (3H, s), 1.57 (6H, s).

reactant | 2-tert-butyldimethylsilyloxymethyl-6-(1-methoxy-1-methylethyl)pyridine | 4.08 mmol, 1.20 g | [Si](C)(C)(C(C)(C)C)OCC1=NC(=CC=C1)C(C)(C)OC | C16H29NO2Si
solvent | AcOH | 45 mL | CC(=O)O | C2H4O2
solvent | THF | 15 mL | C1CCOC1 | C4H8O
solvent | H2O | 15 mL | O | H2O
product | 2-Hydroxymethyl-6-(1-methoxy-1-methylethyl)pyridine | 740 mg, 100% | OCC1=NC(=CC=C1)C(C)(C)OC | C10H15NO2
